US05945565
In a 5-liter three-necked round-bottomed flask equipped with a reflux condenser, overhead stirrer and nitrogen inlet, was placed 318 g of the previously prepared methyl 3-acetoxymethyl-4-nitrobenzoate and 3.2 l of anhydrous methanol. To the resulting solution was bubbled in 40 g of hydrogen chloride and the resulting mixture was refluxed for 3 hours. After cooling to room temperature the solvent was removed using a rotary evaporator yielding 273 g of methyl 3-hydroxymethyl-4-nitrobenzoate as a yellow solid containing traces of methanol, which was used as such in the next step.

reactant | methyl 3-acetoxymethyl-4-nitrobenzoate | C(C)(=O)OCC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C11H11NO6
solvent | methanol | 3.2 l | CO | CH4O
product | methyl 3-hydroxymethyl-4-nitrobenzoate | 273 g | OCC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C9H9NO5
